US07790747B2
[(S)-2-(tert-Butyl-diphenyl-silanyloxy)-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-ethyl]-carbamic acid tert-butyl ester (1.1 g, 1.92 mmol) was treated with hydrazine hydrate (0.5 ml, 9 mmol) in EtOH (5 ml) at rt over night to give [(S)-1-aminomethyl-2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-carbamic acid tert-butyl ester (640 mg, 75%).

reactant | [(S)-2-(tert-Butyl-diphenyl-silanyloxy)-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-ethyl]-carbamic acid tert-butyl ester | 1.92 mmol, 1.1 g | C(C)(C)(C)OC(N[C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CN1C(C2=CC=CC=C2C1=O)=O)=O | C32H38N2O5Si
reactant | hydrazine hydrate | 9 mmol, 0.5 ml | O.NN
solvent | EtOH | 5 ml | CCO | C2H6O
product | [(S)-1-aminomethyl-2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-carbamic acid tert-butyl ester | 640 mg, 75% | C(C)(C)(C)OC(N[C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CN)=O | C24H36N2O3Si
